// Nanopore Spectre Netlist
// Resistor and Capacitor in Parallel

simulator lang=spectre

// Subcircuit definition
subckt nanopore (p n)
    // Resistor in parallel
    R1 (p n) resistor r=1M

    // Capacitor in parallel
    C1 (p n) capacitor c=1p
ends nanopore
